US05159079
2-t-Butylcarbonylamino-4-hydroxy-6-[t-butyl(dimethyl)silyloxymethyl]-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine
To a solution of 0.12 g 4-dimethylaminopyridine in 30 ml pivalic anhydride were added 3.0 g of 2-amino-4-hydroxy-6-[t-butyl(dimethyl)silyloxymethyl]-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine. The mixture was stirred for 6 hours at 90° C. and then for 8 hours at 22° C. The resulting solution was triturated with 30 ml ether to give a white precipitate. This was filtered to give 2.8 g of the title compound: MS m/z 395 (M+ +1), 394 (M+); 300-MHz 1H NMR (CDCl3) δ0.05 (s, 6 H), 0.90 (s, 9 H), 1.31 (s, 9 H), 2.02-2.12 (m, 1 H), 2.14-2.22 (m, 1 H), 2.64 (d of d, J=14, 4 Hz, 1 H), 3.16 (t, J=8 Hz, 1 H), 3.43- 3.50 (m, 2 H), 3.70 (d of d, J=10, 4 Hz, 1 H), 4.65 (b s, 1 H), 7.83 (b s, 1 H).

reactant | 2-amino-4-hydroxy-6-[t-butyl(dimethyl)silyloxymethyl]-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine | 3.0 g | NC=1N=C(C2=C(N1)NCC(C2)CO[Si](C)(C)C(C)(C)C)O | C14H26N4O2Si
reactant | pivalic anhydride | 30 ml | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
catalyst | 4-dimethylaminopyridine | 0.12 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-t-Butylcarbonylamino-4-hydroxy-6-[t-butyl(dimethyl)silyloxymethyl]-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidine | 2.8 g | C(C)(C)(C)C(=O)NC=1N=C(C2=C(N1)NCC(C2)CO[Si](C)(C)C(C)(C)C)O | C19H34N4O3Si
